US05753635
2-(3-Dimethylaminocarbonylphenoxy)-4-(benzyl)amino-5-amino-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine, a compound of formula (J), (0.26 g, 0.44 mmol), was treated with ethyl imidate hydrochloride (0.17 g, 1.3 mmol) in THF/ethanol at 80° C for 6 hours and then concentrated to an oil. The residue was heated in a sand bath under vacuum at 170° C. for 2.0 hours, cooled and filtered through a pad of silica, eluting with 5% methanol in methylene chloride. Evaporation of the volatiles afforded 0.20 g of 2-(3-dimethylaminocarbonylphenoxy)-6-(2-benzyloxy-5-cyanophenoxy)-8-methyl-9-benzylpurine, a compound of formula (L).

reactant | 2-(3-Dimethylaminocarbonylphenoxy)-4-(benzyl)amino-5-amino-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine | CN(C(=O)C=1C=C(OC2=NC(=C(C(=N2)NCC2=CC=CC=C2)N)OC2=C(C=CC(=C2)C#N)OCC2=CC=CC=C2)C=CC1)C | C34H30N6O4
reactant | THF ethanol | C1CCOC1.C(C)O
product | 2-(3-dimethylaminocarbonylphenoxy)-6-(2-benzyloxy-5-cyanophenoxy)-8-methyl-9-benzylpurine | 0.20 g | CN(C(=O)C=1C=C(OC2=NC(=C3N=C(N(C3=N2)CC2=CC=CC=C2)C)OC2=C(C=CC(=C2)C#N)OCC2=CC=CC=C2)C=CC1)C | C36H30N6O4
